US06503907B2
In analogy to example 5.5, Methanesulfonic acid 5-[1-(4-ethynyl-phenyl)-1H-indol-5-yl]-pent-4-ynyl ester and diethylamine were converted to yield Diethyl-{5-[1-(4-ethynyl-phenyl)-1H-indol-5-yl]-pent-4-ynyl}-amine as yellow oil, MS: 355 (MH+).

reactant | Methanesulfonic acid 5-[1-(4-ethynyl-phenyl)-1H-indol-5-yl]-pent-4-ynyl ester | C(#C)C1=CC=C(C=C1)N1C=CC2=CC(=CC=C12)C#CCCCOS(=O)(=O)C | C22H19NO3S
reactant | diethylamine | C(C)NCC | C4H11N
product | Diethyl-{5-[1-(4-ethynyl-phenyl)-1H-indol-5-yl]-pent-4-ynyl}-amine | C(C)N(CCCC#CC=1C=C2C=CN(C2=CC1)C1=CC=C(C=C1)C#C)CC | C25H26N2
